US06818774B2
2-[6-(3-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-acetamide
A mixture of [6-(3-fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid (0.245 mg, 0.744 mmol) and 1,1′-carbonyl-diimidazole (0.229 mg, 1.41 mmol) in N,N′-dimethylformamide (6 mL) was stirred at room temperature for 0.5 h. Ammonium acetate (0.917 g, 11 mol) was added and the mixture was stirred 2 h. Water was added and the mixture was extracted with ethyl acetate. Drying and evaporation of the solvent left a solid which was recrystallised with ethyl acetate and ether. MS: m/e=329.3 (M+H+).

reactant | [6-(3-fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid | 0.744 mmol, 0.245 mg | FC=1C=C(COC=2C=C3CCN(C(C3=CC2)=O)CC(=O)O)C=CC1 | C18H16FNO4
reactant | 1,1′-carbonyl-diimidazole | 1.41 mmol, 0.229 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ammonium acetate | 11 mol, 0.917 g | C(C)(=O)[O-].[NH4+]
reactant | Water | O | H2O
solvent | N,N′-dimethylformamide | 6 mL | CN(C)C=O | C3H7NO
product | 2-[6-(3-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-acetamide | FC=1C=C(COC=2C=C3CCN(C(C3=CC2)=O)CC(=O)N)C=CC1 | C18H17FN2O3
